US06420427B1
5-Ethoxymethoxy-4(S)-[N-(4-phenoxyphenylcarbonyl)amino]pentanol
5-Ethoxymethoxy-4(S)-(N-(4-phenoxyphenylcarbonyl)aminopentanoic acid was obtained by the same procedure as a series of reaction of Example 37→Example 39→Example 41→Example 42, using a corresponding compound instead of the compound of a series of Reference Example 4. A solution of the above obtained compound (3.62 g) in tetrahydrofuran (100 ml) was cooled to 0° C. Triethylamine (1.69 ml) and ethylchloro formate (1.2 ml) were added dropwise thereto. The mixture was stirred at 0° C. for 1.5 hours. Sodium hydrogen borone (0.5 equivalent) was added to the reaction mixture. The mixture was stirred for 30 minutes. Acetic acid (5 ml) was added dropwise thereto. The mixture was stirred for 30 minutes and concentrated. To the residue, ethyl acetate and water were added. The organic layer was collected, washed with water and an aqueous saturated solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (Ethyl acetate:Hexane=2:1 (containing 1% triethylamine.)→4:1) to give the title compound (1.84 g) having the following physical data.

reactant | N-(4-phenoxyphenylcarbonyl)aminopentanoic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(=O)NC(C(=O)O)CCC | C18H19NO4
reactant | Triethylamine | 1.69 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium hydrogen | [Na].[H][H]
reactant | Acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Ethoxymethoxy-4(S)-[N-(4-phenoxyphenylcarbonyl)amino]pentanol | 1.84 g | C(C)OCOC[C@H](CCCO)NC(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H27NO5
